2124-12-16 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   AFib with Hypotension
   24 Hour Events:
   Patient
s rate better controlled with Digoxin and Amiodarone, SBPs in
   90s.  Lactate trending downwards from 2.6 to 1.6; Na likely hypovolemic
   hyponatremia
 trending upwards.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2124-12-15**] 01:20 PM
   Vancomycin - [**2124-12-15**] 03:00 PM
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Omeprazole (Prilosec) - [**2124-12-15**] 10:00 PM
   Other medications:
   Amiodarone 100mg daily
   Digoxin 0.125mg x 2 doses (finished)
   Levofloxacin 750mg q48hrs
   Vancomycin 1g q8hrs
   Omeprazole 30mg daily
   ASA 81mg
   Paroxetene 10mg daily
   Mirtazepine 15mg po qHS
   Colace 100mg [**Hospital1 **]
   Phenylephine gtt
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-16**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.4
C (95.8
   HR: 78 (78 - 151) bpm
   BP: 108/64(74) {82/48(62) - 112/78(94)} mmHg
   RR: 17 (13 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
             Total In:
                                                                  2,675 mL
                                                                     99 mL
   PO:
                                                                     90 mL
             TF:
   IVF:
                                                                    585 mL
                                                                     99 mL
   Blood products:
   Total out:
                                                                    373 mL
                                                                    490 mL
   Urine:
                                                                    233 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,302 mL
                                                                   -391 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///22/
   Physical Examination
    GENERAL: WDWN ** in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP to jaw
   CARDIAC: Irregularly irregular, no murmurs appreciated
   LUNGS: Crackles midway up back b/l
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation.
   EXTREMITIES: 2+ edema to mid-calves b/l, warm well perfused
   SKIN: Stasis dermatitis b/l
   PULSES:
   Right: Carotid 2+  DP dopplerable PT dopplerable
   Left: Carotid 2+ DP dopplerable PT dopplerable
   Neuro A&O x3
   Labs / Radiology
   10.3 g/dL
   185 K/uL
   71 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.2 mEq/L
   38 mg/dL
   105 mEq/L
   134 mEq/L
   32.0 %
   10.2 K/uL
        [image002.jpg]
                            [**2124-12-15**]  04:55 PM
                            [**2124-12-16**]  04:46 AM
   WBC
   10.3
   10.2
   Hct
   31.4
   32.0
   Plt
   168
   185
   Cr
   1.2
   1.0
   Glucose
   111
   71
   Other labs: PT / PTT / INR:16.2/40.5/1.4, ALT / AST:248/107, Alk Phos /
   T Bili:279/1.1, Lactic Acid:1.6 mmol/L, Albumin:3.0 g/dL, LDH:231 IU/L,
   Mg++:2.3 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN 88 yo female with h/o a.fibb who presents with
   abdominal discomfort, poor PO intake, elevated LFTs and found to be in
   a.fibb with RVR with hypotension.
   .
   # A.[**Name (NI) 2180**] Pt with long history of a.fibb; rate may be poorly controlled
   in setting of infection and dehydration.  Pt has not been on coumadin
   since [**8-2**] GIB and fall risk.  Pt also requests not to have
   cardioversion at this time.  Will aim to rate control for now.
   -amiodarone bolus 150mg x1 and then resume home dose 100mg daily
   -dig load 0.25mg IV x1, 0.125mg IV x2 (q6 hrs) and then PO Dig in AM
   -neosynephrine for BP support
   -Pt does not want DCCV [**3-4**] stroke risk
   -aspirin 325mg daily, holding on heparin/coumadin as pt is fall risk
   and has h/o GIB
   -Check TSH
   .
   #Hypotension- SBP 70s; likely multifactorial including possible septic
   picture + poor PO intake + a.fibb w/RVR
   -neo to keep >55
   -Pt given IVF in ED and appears volume overloaded currently on exam
   -Aim to control HR to improve BP as above
   -holding home lasix/spironolactone for now
   .
   # ID- Lactate 3.3, mildly elevated WBC, elevated LFTs. CXR w/ possible
   infiltrate, U/A negative. Vanc/Levo given in ED x1.
   -f/u final read of CXR
   -Continue vanc/levo
   -U/A and culture pending
   -blood cultures pending
   -Repeat Lactate
   .
   #[**Name (NI) 2181**] Pt does not have history of systolic or diastolic dysfunction
   and per ED was dry on initial presentation; however now s/p 2 L IVF
   appears wet and CXR consistent wtih pulmonary edema
   -Holding Lasix given hypotension but need to consider resuming given
   above
   -Consider repeat ECHO
   .
   # Hyponatremia- likely hypovolemic hyponatremia [**3-4**] poor PO intake. Pt
   given 2 L IVF in ED.
   -send ulytes
   -Repeat lytes now that s/p IVF
   -Hold on additional fluids for now as pt appears volume rescitutated
   clinically
   .
   #AG metabolic acisosis- HCO3 19, Lactate 3.3, most likely related to
   infection
   -ID w/u as above
   .
   #Abdominal discomfort- Per pt this has resolved, exam unremarkable.
   Elevated ALT, AST, Alk phos and T.bili,
   -RUQ U/S done, prelim w/o evidence of acute CCY but notable for
   gallstones; need to f/u final read
   -Trend LFTs
   .
   FEN: cardiac diet + ensure
   ACCESS: [**Name (NI) 2182**], pt declined CVL
   PROPHYLAXIS:
   -DVT ppx with heparin SC
   -Bowel regimen colace, senna
   CODE: DNR/DNI
   DISPO: CCU
   CONTACT: SISTER [**Name (NI) 2183**] [**Telephone/Fax (1) 2184**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-12-15**] 03:40 PM
   22 Gauge - [**2124-12-15**] 03:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2124-12-17 06:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2124-12-15**] 01:20 PM
   Vancomycin - [**2124-12-15**] 03:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2124-12-17**] 12:00 AM
   Other medications:
   Flowsheet Data as of  [**2124-12-17**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.3
C (97.3
   HR: 104 (83 - 110) bpm
   BP: 96/49(59) {84/43(55) - 113/70(79)} mmHg
   RR: 15 (13 - 28) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
                  Total In:
                                                                    858 mL
                                                                    120 mL
   PO:
                                                                    680 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    178 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                    240 mL
   Urine:
                                                                  1,520 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -662 mL
                                                                   -120 mL
   Physical Examination
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: +JVP 9cm
   CARDIAC: Irregularly irregular, no murmurs appreciated
   LUNGS: Crackles midway up back b/l
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation.
   EXTREMITIES: 2+ edema to mid-calves b/l, warm well perfused
   SKIN: Stasis dermatitis b/l
   PULSES:
   Right: Carotid 2+  DP dopplerable PT dopplerable
   Left: Carotid 2+ DP dopplerable PT dopplerable
   Neuro A&O x3
   Labs / Radiology
   185 K/uL
   10.3 g/dL
   71 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.2 mEq/L
   38 mg/dL
   105 mEq/L
   134 mEq/L
   32.0 %
   10.2 K/uL
        [image002.jpg]
                            [**2124-12-15**]  04:55 PM
                            [**2124-12-16**]  04:46 AM
   WBC
   10.3
   10.2
   Hct
   31.4
   32.0
   Plt
   168
   185
   Cr
   1.2
   1.0
   Glucose
   111
   71
   Other labs: PT / PTT / INR:16.2/40.5/1.4, ALT / AST:248/107, Alk Phos /
   T Bili:279/1.1, Lactic Acid:1.6 mmol/L, Albumin:3.0 g/dL, LDH:231 IU/L,
   Mg++:2.3 mg/dL
   Assessment and Plan
   88 yo female with h/o a.fibb who presents with abdominal discomfort,
   poor PO intake, elevated LFTs and found to be in a.fibb with RVR with
   hypotension, likely secondary to dehydration .
   .
   # A.Fibb- Better rate control, BP improved.  Likely secondary to
   dehydration and poor po intake.  Loaded with digoxin.  Pt with long
   history of a.fibb; rate may be poorly controlled in setting of
   infection and dehydration.  Pt has not been on coumadin since [**8-2**]
   GIB and fall risk.  Pt also requests not to have cardioversion at this
   time.  Will aim to rate control for now.
   -Amio100mg daily
   -PO Dig in AM
   -Pt does not want DCCV [**3-4**] stroke risk
   -aspirin 325mg daily, holding on heparin/coumadin as pt is fall risk
   and has h/o GIB
   - TSH pnd
   .
   #Hypotension- Resolved.  BPs in 100s.
   -Aim to control HR to improve BP as above
   -Start lasix for diuresis.
   .
   # Pneumonia - Lactate 1.6; trending down from admission lactate 3.3.
   -Continue vanc/levo
   -U/A and culture pending
   -blood cultures pending
   .
   #[**Name (NI) 2181**] Pt does not have history of systolic or diastolic dysfunction
   and per ED was dry on initial presentation; however now s/p 2 L IVF
   appears wet and CXR consistent wtih pulmonary edema
   -Resume diuresis
   .
   # Hyponatremia- Resolved.  likely hypovolemic hyponatremia [**3-4**] poor PO
   intake. Pt given 2 L IVF in ED.
   ...
   FEN: cardiac diet + ensure
   ACCESS: [**Name (NI) 2182**], pt declined CVL
   PROPHYLAXIS:
   -DVT ppx with heparin SC
   -Bowel regimen colace, senna
   CODE: DNR/DNI
   DISPO: CCU
   CONTACT: SISTER [**Name (NI) 2183**] [**Telephone/Fax (1) 2184**]
                      Active Medications [**Known lastname 2215**],[**Known firstname 2216**]
                      1. Vancomycin 1000 mg IV Q48H
   7. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY
   2. Levofloxacin 750 mg PO Q48H
   8. Bisacodyl 10 mg PO DAILY:PRN
   3. Amiodarone 100 mg PO DAILY
   9. traZODONE 25 mg PO HS:PRN
   4. Aspirin 81 mg PO DAILY
   10. Paroxetine 10 mg PO DAILY
   5. Mirtazapine 15 mg PO HS
   11. Senna 1 TAB PO BID:PRN
   6. Digoxin 0.0625 mg PO DAILY
   12. Acetaminophen (Liquid) 325-650 mg PO Q6H:PRN
                      13. Docusate Sodium 100 mg PO BID

2124-12-18 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   88 yo female with h/o a.fibb who presents with abdominal discomfort,
   poor PO intake, elevated LFTs and found to be in a.fibb with RVR with
   hypotension, likely secondary to dehydration .
   24 Hour Events:
   No events o/n.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2124-12-15**] 01:20 PM
   Vancomycin - [**2124-12-17**] 09:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2124-12-17**] 08:37 PM
   Other medications:
   Amiodarone 100mg daily
   Levo 750mg q48hrs
   Vancomycin 1000mg IV q48hrs
   ASA 81mg daily
   Paroxetine 10mg daily
   Mirtazepine 15mg qHS
   Colace 100mg [**Hospital1 **]
   Digoxin 0.0625mg daily
   Lansoprazole 30mg daily
   Furosemide 10mg daily
   Lopressor 12.5mg TID
   SCH
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-18**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.6
   HR: 97 (92 - 121) bpm
   BP: 91/58(66) {81/48(58) - 112/65(75)} mmHg
   RR: 25 (14 - 33) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
                  Total In:
                                                                    890 mL
                                                                    100 mL
   PO:
                                                                    690 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                    940 mL
                                                                    270 mL
   Urine:
                                                                    940 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -50 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   HEENT: MMM
   NECK: JVD @ 10cm
   CARDIAC: Irregularly irregular, no murmurs a
   LUNGS: Crackles midway up back b/l
   ABDOMEN: Soft, NTND. No HSM.
   EXTREMITIES: 2+ edema to mid-calves b/l, warm well perfused
   SKIN: Stasis dermatitis b/l
   Neuro A&O x3
   Labs / Radiology
   214 K/uL
   12.4 g/dL
   86 mg/dL
   1.0 mg/dL
   25 mEq/L
   4.3 mEq/L
   28 mg/dL
   102 mEq/L
   133 mEq/L
   37.1 %
   14.4 K/uL
        [image002.jpg]
                            [**2124-12-15**]  04:55 PM
                            [**2124-12-16**]  04:46 AM
                            [**2124-12-17**]  05:47 AM
   WBC
   10.3
   10.2
   14.4
   Hct
   31.4
   32.0
   37.1
   Plt
   168
   185
   214
   Cr
   1.2
   1.0
   1.0
   Glucose
   111
   71
   86
   Other labs: PT / PTT / INR:14.5/36.5/1.3, ALT / AST:187/64, Alk Phos /
   T Bili:255/0.9, Lactic Acid:1.6 mmol/L, Albumin:3.0 g/dL, LDH:238 IU/L,
   Mg++:2.3 mg/dL
   Assessment and Plan
   88 yo female with h/o a.fibb who presents with abdominal discomfort,
   poor PO intake, elevated LFTs and found to be in a.fibb with RVR with
   hypotension, likely secondary to dehydration .
   # A.Fib- Attempting rate control, thought to be due to
   infection/dehydration.
   -Amio100mg daily (prior regimen), started PO Dig, will add low dose BB
   -ASA 325mg daily, no anticoagulation (fall risk and has h/o GIB) and no
   cardioversion (pt refused for risk of CVA)
   -TSH 3.2
   #Hypotension- Resolved.
   - will restart Lasix at half home dose as CXR still with evidence of
   CHF.
   # Pneumonia
 Lactate improved on Vanc/Levo
   -U/A and culture, BCx pending
   #Abdominal Pain
 resolved, LFTs improving (RUQ US contracted GB with
   multiple stones but no sign of cholecystitis, exam terminated for
   discomfort
 not Murphys).
   #[**Name (NI) 2181**] Pt does not have history of systolic or diastolic dysfunction
   and per ED was dry on initial presentation; however now s/p 2 L IVF
   appears wet and CXR consistent wtih pulmonary edema
   -Resume diuresis
   # Hyponatremia- Resolved.  likely hypovolemic hyponatremia [**3-4**] poor PO
   intake. Pt given 2 L IVF in ED.
   FEN: cardiac diet + ensure
   ACCESS: [**Name (NI) 2182**], pt declined CVL
   PROPHYLAXIS: Hep SC, Bowel Reg
   CODE: DNR/DNI
   DISPO: CCU (lives at [**Hospital **] Rehab)
   CONTACT: SISTER [**Name (NI) 2183**] [**Telephone/Fax (1) 2184**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-12-15**] 03:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2124-12-19 05:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2124-12-18**] 10:30 PM
 NASAL SWAB - At [**2124-12-19**] 05:45 AM
   MRSA screen
   No events overnight.
   S:
m uncomfortable in every way
  Denies chest pain, SOB, abdominal
   pain or other localizing pain.
   Tele: PVCs,  Afib/flutter with variable conduction.  HR in 90s.  Alarms
   for tachycardia.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-12-17**] 09:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2124-12-18**] 08:11 PM
   Heparin Sodium (Prophylaxis) - [**2124-12-18**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-19**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.5
   HR: 94 (94 - 140) bpm
   BP: 101/73(80) {84/51(59) - 124/84(88)} mmHg
   RR: 12 (12 - 30) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 67 Inch
                  Total In:
                                                                  1,250 mL
                  PO:
                                                                  1,250 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    977 mL
                                                                     90 mL
   Urine:
                                                                    977 mL
                                                                     90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    273 mL
                                                                    -90 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   GEN: Uncomfortable appearing
   CARDIAC: Irregularly irregular, no murmurs appreciated
   LUNGS: Decreased breath sounds at bases
   ABDOMEN: Soft, NTND. No HSM.
   EXTREMITIES: 2+ edema to mid-calves b/l, warm well perfused
   SKIN: Stasis dermatitis b/l
   Neuro A&O x3
   Labs / Radiology
                                     134
                               [image002.gif]
                                     103
                               [image002.gif]
                                     19
   [image004.gif]
   83
                                                                    AGap=9
   [image005.gif]
   4.2
                               [image002.gif]
                                     26
                               [image002.gif]
                                     0.7
   [image007.gif]
   Ca: 7.3 Mg: 2.0 P: 2.0
                                                                      12.1
                                                            [image007.gif]
                                    11.2
   [image004.gif]
   221
                 [image008.gif]
   [image004.gif]
                                    33.1
   [image007.gif]
                            [**2124-12-15**]  04:55 PM
                            [**2124-12-16**]  04:46 AM
                            [**2124-12-17**]  05:47 AM
                            [**2124-12-18**]  04:53 AM
   WBC
   10.3
   10.2
   14.4
   13.3
   Hct
   31.4
   32.0
   37.1
   33.8
   Plt
   168
   185
   214
   212
   Cr
   1.2
   1.0
   1.0
   0.7
   Glucose
   111
   71
   86
   87
   Other labs: PT / PTT / INR:14.5/36.5/1.3, ALT / AST:187/64, Alk Phos /
   T Bili:255/0.9, Lactic Acid:1.6 mmol/L, Albumin:3.0 g/dL, LDH:238 IU/L,
   Ca++:7.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   CXR: R>L effusion, improved edema and congestion.  ? PNA.
   MICRO: NGTD
   Assessment and Plan
   88 yo female with h/o a.fibb who presents with abdominal discomfort,
   poor PO intake, elevated LFTs and found to be in a.fibb with RVR with
   hypotension, likely secondary to dehydration.
   # A.Fib- Attempting rate control, thought to be due to
   infection/dehydration.  TSH 3.2
   - Amio100mg daily (prior regimen), cont PO Dig
   - Increase BB dose
   - ASA 325mg daily, no anticoagulation (fall risk and has h/o GIB) and
   no cardioversion (pt refused for risk of CVA)
   #Hypotension- Resolved.    Pt does not have history of systolic or
   diastolic dysfunction and per ED was dry on initial presentation.  CXR
   shows bilateral effusions, and volume o/l
   - Will go up to lasix 40 mg today with goal -500 cc
   # Pneumonia
 continues to have 3L O2 requirement.  Will discuss about
   tapping but patient has been reluctant to do any procedures.
   - On Levo day 4 of 7 day course to end [**12-21**].
   - wean O2
   # Abdominal Pain
 Resolved.  Etiology remains unclear.  LFTs improving
   (RUQ US contracted GB with multiple stones but no sign of
   cholecystitis, exam terminated for discomfort
 not Murphys).
   - continue to monitor
   # Hyponatremia- Resolved.  likely hypovolemic hyponatremia [**3-4**] poor PO
   intake. Pt given 2 L IVF in ED.
   # Malaise
 appears to be from chronic disease.   No localizing signs.
   - will attempt standing tylenol
   FEN: cardiac diet + ensure; Will replete lytes, including phos.  [**Hospital1 **]
   lytes while actively diuresing
   ACCESS: [**Name (NI) 2182**], pt declined CVL
   PROPHYLAXIS: Hep SC, Bowel Reg
   CODE: DNR/DNI
   DISPO: will likely be stable for [**Hospital **] Rehab in next couple days
   CONTACT: SISTER [**Name (NI) 2183**] [**Telephone/Fax (1) 2184**]
           1. IV access: Peripheral line Order date: [**12-15**] @ 1519
   11. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY  Order date:
   [**12-17**] @ 0138
   2. Acetaminophen (Liquid) 325-650 mg PO Q6H:PRN
   please do not exceed 4g/24hrs  Order date: [**12-15**] @ 1824
   12. Levofloxacin 750 mg PO Q48H  Order date: [**12-15**] @ 1519
   3. Amiodarone 100 mg PO DAILY  Order date: [**12-15**] @ 1524
   13. Metoprolol Tartrate 25 mg PO TID
   Please hold for SBP < 90 and HR < 60.  Order date: [**12-18**] @ 0813
   4. Aspirin 81 mg PO DAILY  Order date: [**12-15**] @ 1638
   14. Mirtazapine 15 mg PO HS  Order date: [**12-15**] @ 1637
   5. Bisacodyl 10 mg PO/PR DAILY:PRN  Order date: [**12-17**] @ 1405
   15. Paroxetine 10 mg PO DAILY  Order date: [**12-15**] @ 1637
   6. Digoxin 0.0625 mg PO DAILY  Order date: [**12-16**] @ 1224
   16. Senna 1 TAB PO BID:PRN  Order date: [**12-15**] @ 1637
   7. Docusate Sodium 100 mg PO BID  Order date: [**12-15**] @ 1637
   17. Simethicone 40-80 mg PO QID:PRN  Order date: [**12-17**] @ 1346
   8. Furosemide 20 mg PO DAILY  Order date: [**12-18**] @ 0816
   18. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**12-15**] @ 1519
   9. Heparin 5000 UNIT SC TID  Order date: [**12-17**] @ 1051
   19. traZODONE 25 mg PO HS:PRN  Order date: [**12-15**] @ 2232
   10. Influenza Virus Vaccine 0.5 mL IM ASDIR
   Follow Influenza Protocol Document administration in POE   Order date:
   [**12-15**] @ 1517